US04579869
A mixture of 5-amino-6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1H-inden-1-one (800 mg), postassium carbonate (440 mg), and ethyl bromoacetate (540 mg) in acetone (20 ml) is heated at reflux overnight. The reaction mixture is filtered, the acetone is distilled at reduced pressure and the residual oil is dissolved in a mixture of ethanol (5 ml) and methylene chloride (5 ml) and treated with 10 N sodium hydroxide (2 ml). The mixture is stirred overnight, the solvents are distilled at reduced pressure and the residue is treated with water, then filtered and acidified with hydrochloric acid and extracted with ethyl acetate. Evaporation of the ethyl acetate gives 150 mg of [(6,7-dichloro-2-cyclo-pentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)amino]acetic acid which melts at 199°-200° C. after recrystallization from chloroform-hexane.

reactant | 5-amino-6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1H-inden-1-one | 800 mg | NC=1C=C2CC(C(C2=C(C1Cl)Cl)=O)(C)C1CCCC1 | C15H17Cl2NO
reactant | carbonate | 440 mg | C([O-])([O-])=O
reactant | ethyl bromoacetate | 540 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | [(6,7-dichloro-2-cyclo-pentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)amino]acetic acid | 150 mg | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)NCC(=O)O | C17H19Cl2NO3
